US07723518B2
During chemical development this process was altered. 2-Amino-3-hydroxypyridine was reacted with 2-acetyl-butyrolactone in the presence of p-toluenesulfonic acid in xylene to yield 9-hydroxy-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; this product proved to be poorly soluble in xylene resulting in deposit formation on the wall of the reaction vessel and discoloration of the reaction mixture to black.

reactant | 2-Amino-3-hydroxypyridine | NC1=NC=CC=C1O | C5H6N2O
reactant | 2-acetyl-butyrolactone | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 9-hydroxy-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | OC1=CC=CN2C1=NC(=C(C2=O)CCO)C | C11H12N2O3
